US07935782B2
58. Synthesis of T-Butyl(1-Ethoxyvinyloxy)Dimethylsilane
To a solution of 2,2,6,6-tetramethylpiperidine (17.34 mL, 102.14 mmol) in THF (63.4 mL) under argon, 2.9 M BuLi in hexanes (34.05 mL, 98.74 mmol) was added dropwise at 0° C. The reaction was stirred for 15 min. and subsequently cooled to −78° C. t-Butyldimethylchlorosilane (TBDMSCl) (16.94 g, 112.36 mmol) in THF (25.4 mL) was added and then a solution of anhydrous ethyl acetate (8.38 mL, 85.12 mmol) in THF (57.2 mL) was slowly added over 1 h. The mixture was stirred for an additional 10 min at −78° C. and then stirred at r.t. for 1 h. The solution was then diluted with hexanes (285.9 mL), filtered through a Celite pad, and the filtrate concentrated. Distillation under vacuum at 42-50° C. gave an orange oil (g, 2.0%). 1H NMR (400 MHz, CDCl3) δ 3.74 (q, 2H, J=7.0 Hz, CH2), 3.22 (d, 1H, J=2.0 Hz, CH2), 3.05 (d, 1H, J=2.0 Hz, CH2), 1.29 (t, 3H, J=7.1 Hz, CH3), 0.94 (s, 9H, CH3), 0.17 (s, 6H, CH3); 13C NMR (400 MHz, CDCl3) δ 160.3, 62.4, 59.6, 24.79, 17.3, 13.5, −5.4

reactant | 2,2,6,6-tetramethylpiperidine | 102.14 mmol, 17.34 mL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | BuLi | 2.9 M | [Li]CCCC
reactant | t-Butyldimethylchlorosilane | 112.36 mmol, 16.94 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | ethyl acetate | 85.12 mmol, 8.38 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 63.4 mL | C1CCOC1 | C4H8O
solvent | THF | 25.4 mL | C1CCOC1 | C4H8O
solvent | THF | 57.2 mL | C1CCOC1 | C4H8O
product | T-Butyl(1-Ethoxyvinyloxy)Dimethylsilane | C(C)(C)(C)[Si](C)(C)OC(=C)OCC | C10H22O2Si
